US06320078B1
0.34 g (2.1 mmole) of N,N′-carbonyldiimidazole was added to a tetrahydrofuran (10 ml) suspension including 0.6 g (2.1 mmole) of 4-{2-oxo-2-[(pyridin-3-ylmethyl)amino]ethoxy}benzoic acid, followed by stirring at 45° C. for 1 hour. After cooling to room temperature, 2.1 g (19.4 mmole, 8 equivalents) of 1,2-phenylenediamine and 0.4 ml of trifluoroacetic acid were added, and reaction was further carried out for 15 hours. After completion of the reaction, a post-treatment was performed in the same manner as in Example 6 to obtain 0.67 g (yield: 53%) of N-(2-aminophenyl)-4-{2-oxo-2-[(pyridin-3-ylmethyl)amino]ethoxy}-benzamide.

reactant | 4-{2-oxo-2-[(pyridin-3-ylmethyl)amino]ethoxy}benzoic acid | 2.1 mmole, 0.6 g | O=C(COC1=CC=C(C(=O)O)C=C1)NCC=1C=NC=CC1 | C15H14N2O4
reactant | 1,2-phenylenediamine | 19.4 mmole, 2.1 g, 8 equivalents | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | trifluoroacetic acid | 0.4 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-(2-aminophenyl)-4-{2-oxo-2-[(pyridin-3-ylmethyl)amino]ethoxy}-benzamide | 0.67 g, yield: 53% | NC1=C(C=CC=C1)NC(C1=CC=C(C=C1)OCC(NCC=1C=NC=CC1)=O)=O | C21H20N4O3
